US03998966
A solution of 4.2 g. of diazomethane and 75 ml. of diethyl ether is added to a mixture of 23.6 g. of 6-methoxy-1-hydroxy-1,2,3,4-tetrahydro-2-naphthylacetic acid and 150 ml. of diethyl ether. The reaction mixture is stirred until colorless; then it is evaporated. The residue, containing methyl 6-methoxy1-hydroxy-1,2,3,4-tetrahydro-2-naphthylacetate is esterified by treatment with 240 mg. of sodium hydride in 25 ml. of methanol followed by the addition of 2.4 g. of methyl iodide. The product, methyl 1,6-dimethoxy-1,2,3,4-tetrahydro-2-naphthylacetate, is dehydrogenated by heating it with 2 g. of 10% palladium-on-charcoal catalyst; the resulting mixture is heated to 210° C for 12 hours. The cooled mixture is then diluted with 150 ml. of methylene chloride, filtered, and evaporated to yield methyl 1,6-dimethoxy-2-naphthylacetate. The product is refluxed in a mixture of 150 ml. of glacial acetic acid and 150 ml. of 48% hydrobromic acid for ten minutes. The product is extracted with methylene chloride. The extracts are combined, washed with water to neutrality, dried over sodium sulfate, filtered and evaporated to yield a mixture of methyl 1-hydroxy-6-methoxy-2-naphthylacetate and methyl 1-methoxy-6-hydroxy-2-naphthylacetate. The compounds are separated by distillation under reduced pressure and identified by nuclear magnetic spectroscopy.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 6-methoxy-1-hydroxy-1,2,3,4-tetrahydro-2-naphthylacetic acid | COC=1C=C2CCC(C(C2=CC1)O)CC(=O)O | C13H16O4
reactant | diethyl ether | C(C)OCC | C4H10O
product | methyl 1,6-dimethoxy-2-naphthylacetate | COC1=C(C=CC2=CC(=CC=C12)OC)CC(=O)OC | C15H16O4
